US07576215B2
4-{[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)CARBONYL]AMINO}BENZOIC ACID
The title compound was prepared from ethyl 4-{[({3-[3-benzoyl-8-(trifluoromethyl) quinolin-4-yl]phenyl}amino)carbonyl]amino}benzoate by hydrolysis with LiOH. HRMS: calcd for C31H20F3N3O4, 555.1406; found (ESI, [M+H]+), 556.1495.

reactant | ethyl 4-{[({3-[3-benzoyl-8-(trifluoromethyl) quinolin-4-yl]phenyl}amino)carbonyl]amino}benzoate | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=O)NC1=CC=C(C(=O)OCC)C=C1)C(F)(F)F | C33H24F3N3O4
reactant | LiOH | [Li+].[OH-]
product | 4-{[({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)CARBONYL]AMINO}BENZOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=O)NC1=CC=C(C(=O)O)C=C1)C(F)(F)F | C31H20F3N3O4
